US07531576B2
Using 2,4,6-trifluorobenzoic acid (0.43 g), diphenylphosphoryl azide (0.68 g), triethylamine (0.25 g) and N-[(2′-nitro-1,1′-biphenyl-4-yl)methyl]-N-pentylamine (0.40 g), N′-[(2′-nitro-1,1′-biphenyl-4-yl)methyl]-N′-pentyl-N-(2,4,6-trifluorophenyl)urea (0.60 g) was obtained by a similar procedure as in Example 4. Yield: 95%.

reactant | 2,4,6-trifluorobenzoic acid | 0.43 g | FC1=C(C(=O)O)C(=CC(=C1)F)F | C7H3F3O2
reactant | diphenylphosphoryl azide | 0.68 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | N-[(2′-nitro-1,1′-biphenyl-4-yl)methyl]-N-pentylamine | 0.40 g | [N+](=O)([O-])C1=C(C=CC=C1)C1=CC=C(C=C1)CNCCCCC | C18H22N2O2
reactant | triethylamine | 0.25 g | C(C)N(CC)CC | C6H15N
product | N′-[(2′-nitro-1,1′-biphenyl-4-yl)methyl]-N′-pentyl-N-(2,4,6-trifluorophenyl)urea | 0.60 g, Yield: 95% | [N+](=O)([O-])C1=C(C=CC=C1)C1=CC=C(C=C1)CN(C(NC1=C(C=C(C=C1F)F)F)=O)CCCCC | C25H24F3N3O3
